US03954757
A solution of 19.6 g of 5-bromo-indole in 50 ml of methanol is added to a stirred solution of 50 g potassium iodide and 25.4 g of iodine in 150 ml of water at room temperature. The mixture is further treated with a solution of 11.6 g of 1,4,5,6-tetrahydro-2-pyrimidinethiol in 270 ml of warm methanol. The reaction mixture is then stirred at room temperature for 2 hours, filtered and the filtrate is concentrated to one-fifth of the original volume and cooled. A crystalline precipitate is formed. This is filtered and recrystallised from a mixture of methanol, ethylacetate and ether to yield 5-bromo-3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole hydriodide which melts at 241°-242°.

reactant | 5-bromo-indole | 19.6 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | potassium iodide | 50 g | [I-].[K+]
reactant | iodine | 25.4 g | II | I2
reactant | 1,4,5,6-tetrahydro-2-pyrimidinethiol | 11.6 g | N1C(=NCCC1)S | C4H8N2S
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
solvent | methanol | 270 ml | CO | CH4O
product | 5-bromo-3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole hydriodide | I.BrC=1C=C2C(=CNC2=CC1)SC=1NCCCN1 | InChI=1S/C12H12BrN3S.HI/c13-8-2-3-10-9(6-8)11(7-16-10)17-12-14-4-1-5-15-12;/h2-3,6-7,16H,1,4-5H2,(H,14,15);1H
